US07208495B2
1-(2,2,3,4,6,7-hexamethyl-3-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine
A solution of methyllithium in diethyl ether (1.14 M, 5.60 mL, 6.38 mmol) was added dropwise to a solution of 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-on-5-yl)piperazine (2.00 g, 5.06 mmol) obtained in Reference Example 13 in THF (20 ml) under ice cooling and the mixture was stirred for 10 minutes. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic extract was washed with water and saturated aqueous sodium chloride, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was crystallized from hexane to obtain 2.00 g (yield 96%) of the title compound. mp. 139–141° C.

reactant | methyllithium | C[Li]
reactant | diethyl ether | 6.38 mmol, 1.14 M, 5.60 mL | C(C)OCC | C4H10O
reactant | 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-on-5-yl)piperazine | 5.06 mmol, 2.00 g | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C24H30N2O3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(2,2,3,4,6,7-hexamethyl-3-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine | 2.00 g, yield 96% | CC1(OC2=C(C1(O)C)C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C)C | C25H34N2O3
